US08703103B2
7.8 g (0.045 moles) of 2,2,5,5-tetramethyl-4-hydroxy-3-hexanone were dissolved in 90 ml of hexane and stirred vigorously with 157 ml of 1M aqueous potassium permanganate solution containing 1.8 g (0.045 moles) of sodium hydroxide. This mixture was then refluxed overnight. The mixture was then cooled to room temperature and the hexane layer separated. The aqueous layer was then extracted three times with 50 ml of hexane. The hexane solutions were then combined and washed three times with 50 ml of pure water before drying over anhydrous magnesium sulfate. The mixture was then filtered and the hexane distilled off at atmospheric pressure to yield 6.3 g of 2,2,5,5-tetramethyl-3,4-hexanedione (82% of theoretical).

reactant | 2,2,5,5-tetramethyl-4-hydroxy-3-hexanone | 0.045 moles, 7.8 g | CC(C)(C(C(C(C)(C)C)O)=O)C | C10H20O2
reactant | potassium permanganate | 1M, 157 ml | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 0.045 moles, 1.8 g | [OH-].[Na+]
solvent | hexane | 90 ml | CCCCCC | C6H14
product | 2,2,5,5-tetramethyl-3,4-hexanedione | 6.3 g, 82% | CC(C)(C(C(C(C)(C)C)=O)=O)C | C10H18O2
